US06686347B2
1c) 1-(3-Methylanilino)phthalazine
Under a N2 atmosphere, 30 g (149 mmol) 1-chlorophthalazine hydrochloride in 0.6 l n-butanol is mixed with 16.2 ml (149 mmol) m-toluidine and stirred for 1 h at 65° C. The solution is concentrated by evaporation and the residue distributed between dichloromethane/MeOH 10:1 and Na2CO3 solution (80 g in 0.5 l H2O). The aqueous phase is extracted twice with dichloromethane/MeOH 10:1, the organic phases are washed with Na2CO3 solution (80 g in 0.5 l H2O) and brine, dried (Na2SO4) and evaporated. The residue is taken up in 200 ml boiling dichloromethane/acetone 1:1, filtered hot, and partly evaporated. Then addition of DIPE leads to crystallization of the title compound, which is filtered off and washed with DIPE: m.p. 176-177° C.; 1H-NMR (DMSO-d6) 9.12 (s, HN), 9.08 (s, 1H), 8.59 (m, 1H), 7.99 (m, 3H), 7.76 (s, 1H), 7.73 (d, 1H), 7.24 (t, 1H), 6.86 (d, 1H), 2.32 (s, 3H); FAB-MS (M+H)+=236; an. calc.(C15H13N3·0.05 H2O) C, 76.28%; H, 5.59%; N, 17.79%; meas. C, 76.04%; H, 5.53%; N, 17.68%.

reactant | 1-chlorophthalazine hydrochloride | 149 mmol, 30 g | Cl.ClC1=NN=CC2=CC=CC=C12
reactant | m-toluidine | 149 mmol, 16.2 ml | NC1=CC(=CC=C1)C | C7H9N
solvent | n-butanol | 0.6 l | C(CCC)O | C4H10O
product | 1-(3-Methylanilino)phthalazine | CC=1C=C(NC2=NN=CC3=CC=CC=C23)C=CC1 | C15H13N3
